US04278681
A solution of 100 g (0.76 mol) of L-hydroxyproline and 540 ml of water was cooled to 10° and 297 ml (3.7 mol) of pyridine was added. The temperature was lowered to 5° and 151.2 ml (1.6 mol) of acetic anhydride was slowly added. The reaction was stirred at 0°-5° for 45 min and 81 ml (0.97 mol) of pyridine was added followed by 42.7 ml (0.45 mol) of acetic anhydride. The reaction was stirred overnight in an ice bath allowing the bath to come to room temperature. The reaction was evaporated and the residue was dissolved in ethanol and evaporated to an oily residue. This step was repeated a number of times, and the residue was dissolved in acetone, seeded, and cooled. The white crystals were filtered and recrystallized from ethanol-ether and dried under vacuum at 40° to give 84.8 g of N-acetyl-4-hydroxy-L-proline; mp 124°-131°; [α]D23 -117° (cl, water).

reactant | L-hydroxyproline | 0.76 mol, 100 g | N1[C@H](C(=O)O)C[C@@H](O)C1 | C5H9NO3
reactant | pyridine | 3.7 mol, 297 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 1.6 mol, 151.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.97 mol, 81 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.45 mol, 42.7 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 540 ml | O | H2O
product | N-acetyl-4-hydroxy-L-proline | 84.8 g | C(C)(=O)N1[C@H](C(=O)O)CC(C1)O | C7H11NO4
